US04335122
11-cyano-11-[3-(dimethylamino)propyl]-6,11-dihydrodibenz[b,e]oxepin
Sodium hydride (4.28 g; 0.18 mole) is added portionwise with cooling (5°-10° C.) under nitrogen to a solution of 11-cyano-6,11-dihydrodibenz[b,e]oxepin (16.0 g; 0.72 mole), of Example 1A, in dry DMF (320 ml) and stirred at ambient temperature for 11/2 hours. At this time, 2-dimethylaminopropyl chloride hydrochloride (15.92 g; 0.10 mole) is added portionwise while maintaining the temperature below 10° C. Upon completion of the addition, stirring is continued at 80° C. for 20 hours. The reaction mixture is cooled, poured into 2 liters of ice water and extracted with ether. The ether is back extracted with 2 N HCl and the acidic washes combined and made basic with potassium carbonate. After extraction with ether and drying (K2CO3) the ether is removed in vacuo to give a solid. Trituration with hexane and drying provides 7.0 g (32%) of a solid (m.p. 112°-114° C.) of 11-cyano-11-[3-(dimethylamino)propyl]-6,11-dihydrodibenz[b,e]oxepin.

reactant | Sodium hydride | 0.18 mole, 4.28 g | [H-].[Na+]
reactant | 11-cyano-6,11-dihydrodibenz[b,e]oxepin | 0.72 mole, 16.0 g | C(#N)C1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C15H11NO
reactant | 2-dimethylaminopropyl chloride hydrochloride | 0.10 mole, 15.92 g | Cl.CN(C(CCl)C)C
reactant | DMF | 320 ml | CN(C)C=O | C3H7NO
product | 11-cyano-11-[3-(dimethylamino)propyl]-6,11-dihydrodibenz[b,e]oxepin | 7.0 g, 32% | C(#N)C1(C2=C(OCC3=C1C=CC=C3)C=CC=C2)CCCN(C)C | C20H22N2O
